US08541411B2
c) 6-bromo-2-methyl-4-nitro-1H-benzo[d]imidazole
A mixture of 5-bromo-3-nitrobenzene-1,2-diamine (464 mg) and pentane-2,4-dione (400 mg) in EtOH (27 mL) and 5 N HCl (7.4 mL) was refluxed for 3 h. The mixture was cooled to room temperature and the solvent was removed in-vacuo. The residue was dissolved in EtOAc and washed with aqueous NaHCO3 solution and brine. The organic layer was concentrated to afford the desired product as a solid (460 mg, 90%). 1H NMR (300 MHz, CDCl3) δ ppm 2.73 (s, 3H), 8.11 (d, 1H, J=1.8 Hz), 8.24 (d, 1H, J=1.8 Hz), 10.20 (s, 1H, s); LC-MS: m/e=256 [M+1]+

reactant | 5-bromo-3-nitrobenzene-1,2-diamine | 464 mg | BrC1=CC(=C(C(=C1)N)N)[N+](=O)[O-] | C6H6BrN3O2
reactant | pentane-2,4-dione | 400 mg | CC(CC(C)=O)=O | C5H8O2
solvent | EtOH | 27 mL | CCO | C2H6O
solvent | HCl | 5 N, 7.4 mL | Cl | ClH
product | 6-bromo-2-methyl-4-nitro-1H-benzo[d]imidazole | 460 mg, 90% | BrC=1C=C(C2=C(NC(=N2)C)C1)[N+](=O)[O-] | C8H6BrN3O2
